US06258961B1
[2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile hydrochloride
276.7 g (1 mol) of [2-(2-thienyl)ethylamino](2-chlorphenyl)acetonitrile, prepared according to example 1 or 2, is dissolved in 600 ml of ethanol, to the solution 600 ml of 10% aqueous hydrochloric acid solution is added. Within a few minutes white crystals precipitate, then are collected, washed with 60 ml of 1:1 mixture of 10% hydrochloric acid and ethanol, then with acetone, and they are dried. Weight 305 g (97.4%), mp: 153-154° C. The product was identified by elemental analysis, IR spectrum and 1H-NMR investigation.

reactant | [2-(2-thienyl)ethylamino](2-chlorphenyl)acetonitrile | 1 mol, 276.7 g | S1C(=CC=C1)CCNC(C#N)C1=C(C=CC=C1)Cl | C14H13ClN2S
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 600 ml | Cl | ClH
product | [2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile hydrochloride | Cl.S1C(=CC=C1)CCNC(C#N)C1=C(C=CC=C1)Cl | InChI=1S/C14H13ClN2S.ClH/c15-13-6-2-1-5-12(13)14(10-16)17-8-7-11-4-3-9-18-11;/h1-6,9,14,17H,7-8H2;1H
